US06596719B1
According to the procedure described in Example 4a) 107 mg 5-methyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide was reacted with 4-methylbenzenesulfonylchloride to give 70 mg 5-methyl-N-[6-(2-(4-methylbenzenesulfonylamino)-ethoxy)-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide. LC-MS: tR=4.55 min [M+1]+663.56, [M−1]−=661.63.

reactant | 5-methyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide | 107 mg | CC=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCN)C1=CC=NC=C1 | C24H24N6O5S
reactant | 4-methylbenzenesulfonylchloride | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
product | 5-methyl-N-[6-(2-(4-methylbenzenesulfonylamino)-ethoxy)-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide | 70 mg | CC=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCNS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=NC=C1 | C31H30N6O7S2
